Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / doxycycline / Flagyl
 
Attending: ___
 
Chief Complaint:
stage IV high grade mullerian carcinoma
 
Major Surgical or Invasive Procedure:
Exploratory laparotomy, extensive lysis of adhesions, 
supracervical hysterectomy, bilateral salpingo-oophorectomy, 
radical debulking of pelvic tumor. Rectosigmoid resection with 
end-colostomy, and splenic flexure mobilization by Dr. ___ 
___ the colorectal service.

 
History of Present Illness:
Ms. ___ is a ___ woman with stage IVB high-grade
Mullerian carcinoma metastatic to peritoneum, liver, and bone.
During her initial presentation, she had a bowel perforation
diagnosed on CT and had an ___ drain placed. Further imaging was
suggestive of a tumor-enteric fistula and pelvic abscess.  She
had an omental biopsy on ___, which pathology showing a 
high
grade Mullerian carcinoma. Due to the concern about risk to her
GI tract with surgery, chemotherapy was initiated and she
completed her third cycle of carboplatin and paclitaxel on
___. She was maintained on TPN due to her fistula. She did
have a PICC related DVT, treated with Lovenox. Her CA-125
downtrended from 707 at time of diagnosis to 18 on ___. 

A restaging CT torso was performed on ___. The CT chest
showed known diffuse bony metastasis in the chest wall and 
spine,
no pulmonary nodules or adenopathy. The CT abdomen/pelvis showed
interval decrease in omental nodularity, pelvic mass, and liver
hypodensity. There were persistent rim enhancing pelvic fluid
collections, decreased from prior studies. There was no
extravasation of contrast from bowel. There was no pelvic or
inguinal lymphadenopathy. 

Due to good response to chemotherapy, decision was made to 
proceed with debulking surgery.
 
Past Medical History:
PMH:
- Lyme disease ___
- history of benign dura mater turmor as child
- Denies hypertension, diabetes, cardiovascular disease, asthma,
thromboembolic disease

PSH: 
- ganglion cyst excision
- benign dura mater tumor excision 
- abdominoplasty
- breast implants

POB: G0

PGYN: 
- LMP ___, denies postmenopausal bleeding
- Not currently sexually active 
- Bioidentical hormonal replacement therapy for ___ years
perimenopause
- Remote history of abnormal Pap smear in her ___, unsure if 
LEEP
was performed; last Pap ___ neg per patient
- Denies history of pelvic infections or sexually transmitted
infections
- Denies history of fibroids or cysts
 
Social History:
___
Family History:
- Maternal grandmother with breast cancer diagnosed age ___, died 
of stroke
- No known family history of uterine, ovarian, cervical or colon 
cancer
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding; ostomy pink and patent 
with stool and gas in bag
___: nontender, nonedematous
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoin exploratory laparotomy, extensive lysis of adhesions, 
supracervical hysterectomy, bilateral salpingo-oophorectomy, 
radical debulking of pelvic tumor, rectosigmoid resection with 
end-colostomy, and splenic flexure mobilization. Please see the 
operative report for full details. Of note, she had an estimated 
blood loss of 800mL and received 3 units of packed red blood 
cells intraoperatively. Her hematocrit was trended and remained 
stable during her recovery course.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with a TAP block and 
Dilaudid PCA. Her diet was slowly advanced, and she was 
restarted on her home TPN to supplement her nutritional intake. 
Her foley was removed and she voided spontaneously. Her bowel 
function slowly returned, and by ___ she was producing stool 
and gas in ostomy bag. Nutrition saw her daily and provided TPN 
recommendations. On ___, her TPN was stopped and she was 
maintained on a regular diet with Ensure supplementation. She 
was successfully transitioned to PO oxycodone, ibuprofen, and 
acetaminophen with pain well-controlled. Her wound vac remained 
in place for 7 days, and was removed on ___ before discharge. 
During her hospital course, she received enoxaparin 60mg Q12, 
consistent with her prior anticoagulation regimen for 
PICC-associated DVT.

By ___, she was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications. She was producing gas and stool into 
ostomy bag. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
Enoxaparin Sodium 60 mg SC Q12H Take until ___ removed
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
Do not drink or drive while taking. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1
2. Enoxaparin Sodium 60 mg SC Q12H 
Take until PICC removed. 
RX *enoxaparin 60 mg/0.6 mL 60 mg SC every 12 hours Disp #*30 
Syringe Refills:*1
3. Ibuprofen 600 mg PO Q6H:PRN pain 
Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Do not drink or drive while taking. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*50 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stage IV high grade mullerian carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Abdominal instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower but do not scrub incision. No bath tubs for 6 
weeks.  
* Your staples will be removed at your follow-up visit listed 
below.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___